US07112582B2
Step 3: 2-Imino-4-p-nitrobenzyloxycarbonyl piperazine:
The mixture of 5-methoxy-4-p-nitrobenzyloxycarbonyl-1,2,3,6-tetrahydropyrazine (5.7 g) and ammonium chloride (1.6 g) in dry ethanol (100 mL) was heated to reflux for 4 hours. The reaction mixture was then concentrated under reduced pressure. Dichloromethane (100 mL) was added to the residue and extracted with water (3×50 mL) then the combined aqueous layer was washed with dichloromethane. The aqueous layer was neutralized with 10% potassium carbonate aqueous solution and then extracted with dichloromethane (8×50 mL). The combined organic layer was dried (MgSO4) and filtered. The filtrate was concentrated under reduced pressure and the title compound was obtained as a white solid. Yield: 4.9 g, 91.2%.

reactant | 5-methoxy-4-p-nitrobenzyloxycarbonyl-1,2,3,6-tetrahydropyrazine | 5.7 g | COC1N(CCNC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C13H17N3O5
reactant | ammonium chloride | 1.6 g | [Cl-].[NH4+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-Imino-4-p-nitrobenzyloxycarbonyl piperazine | N=C1NCCN(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C12H14N4O4
